US08912188B2
To a solution of methyl 2-chloro-3-[methyl(propan-2-yl)amino]quinoxaline-6-carboxylate (170 mg, 0.58 mmol) in 1,4-dioxane (6 ml) was added (1H-pyrazol-4-yl)boronic acid (130 mg, 1.16 mmol), Pd(PPh3)4 (34 mg, 0.029 mmol), K3PO4 (367 mg, 1.74 mmol) and water (5 drops) with stirring for 1 h at 90° C. under an inert atmosphere of nitrogen in an oil bath. The reaction mixture was concentrated under vacuum to give the residue, which was purified via silica gel chromatography (1% to 10% ethyl acetate in petroleum ether) to afford methyl 3-[methyl(propan-2-yl)amino]-2-(1H-pyrazol-4-yl)quinoxaline-6-carboxylate as a yellow solid (150 mg, 79%).

reactant | methyl 2-chloro-3-[methyl(propan-2-yl)amino]quinoxaline-6-carboxylate | 0.58 mmol, 170 mg | ClC1=NC2=CC=C(C=C2N=C1N(C(C)C)C)C(=O)OC | C14H16ClN3O2
reactant | (1H-pyrazol-4-yl)boronic acid | 1.16 mmol, 130 mg | N1N=CC(=C1)B(O)O | C3H5BN2O2
reactant | K3PO4 | 1.74 mmol, 367 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | 1,4-dioxane | 6 ml | O1CCOCC1 | C4H8O2
catalyst | water | 5 drops | O | H2O
catalyst | Pd(PPh3)4 | 0.029 mmol, 34 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl 3-[methyl(propan-2-yl)amino]-2-(1H-pyrazol-4-yl)quinoxaline-6-carboxylate | 150 mg, 79% | CN(C=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C=1C=NNC1)C(C)C | C17H19N5O2
